US07592487B2
PhB(OH)2 (122 mg, 1.0 mmol) and ZnEt2 (334 μL, 3.25 mmol) in toluene (1 mL) is charged to a 10 mL flask under a nitrogin atmosphere. This mixture is heated to 60° C. and stirred for 10 h with a magnetic stirrer. Then the mixture is cooled to 0° C. and 1-{(S)-[methyl-((S)-1-phenyl-ethyl)-amino]-phenyl-methyl}-naphthalen-2-ol (prepared as described by Chan et al., J. Org. Chemistry 2003, 68, 1589-1590; 14.7 mg, 0.04 mmol) in toluene (0.5 mL) and DiMPEG (100 mg, 0.05 mmol) in toluene (0.5 mL) is added. After stirring for additional 15 min, the solution is cooled to −15° C. and 2-chlorobenzaldehyde (70.0 mg, 0.5 mmol) in toluene (1 mL) is added. After stirring 15 h at −15° C., the reaction is quenched with 1 N HCl (2 mL) and the mixture is extracted with EtOAc (5 mL), dried over anhydrous Na2SO4 and the solvent is removed in vacuo. The purification of the residue by flash chromatography (EtOAc/hexane, 1:10) gives (R)-(2-chlorophenyl)-phenylmethanol in about 94.3% ee and about 91.3% yield (the ee value is determined by HPLC using a Chiralcel OD-H column).

reactant | PhB(OH)2 | 1.0 mmol, 122 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ZnEt2 | 3.25 mmol, 334 μL | [Zn](CC)CC
reactant | 1-{(S)-[methyl-((S)-1-phenyl-ethyl)-amino]-phenyl-methyl}-naphthalen-2-ol | 0.04 mmol, 14.7 mg | CN([C@@H](C)C1=CC=CC=C1)[C@H](C1=C(C=CC2=CC=CC=C12)O)C1=CC=CC=C1 | C26H25NO
reactant | 2-chlorobenzaldehyde | 0.5 mmol, 70.0 mg | ClC1=C(C=O)C=CC=C1 | C7H5ClO
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-(2-chlorophenyl)-phenylmethanol | about 91.3% yield | ClC1=C(C=CC=C1)[C@H](O)C1=CC=CC=C1 | C13H11ClO
